US07875600B2
2-Amino-6-phenylpyrimidine-4-carboxylic acid
A solution of methyl 2-amino-6-chloropyrimidine-4-carboxylate (0.2 g, 1.07 mmol) and phenylboronic acid (0.16 g, 1.3 mmol) in THF (10 mL) was treated with saturated aqueous NaHCO3 (1.6 mL). Nitrogen was bubbled through the solution for 5 min then tetrakis(triphenylphosphine)palladium(0) (0.04 g) was added and the mixture refluxed under nitrogen overnight. The mixture was treated with aqueous LiOH (1-M, 1 mL), heated at 90° C. for 2 h, concentrated in vacuo and partitioned between ethyl acetate and water. The aqueous layer was acidified to pH 1 with 2-N HCl, the resulting suspension centrifuged, the liquors decanted and the resulting solid dried to give the title compound (0.17 g, 72%) as a white powder which was used directly in the next step without further purification; M/Z 216 (M+H)+; retention time 1.60 min (Method AM).

reactant | methyl 2-amino-6-chloropyrimidine-4-carboxylate | 1.07 mmol, 0.2 g | NC1=NC(=CC(=N1)C(=O)OC)Cl | C6H6ClN3O2
reactant | phenylboronic acid | 1.3 mmol, 0.16 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | NaHCO3 | 1.6 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Amino-6-phenylpyrimidine-4-carboxylic acid | 0.17 g, 72% | NC1=NC(=CC(=N1)C(=O)O)C1=CC=CC=C1 | C11H9N3O2
